Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
latex
 
Attending: ___.
 
Chief Complaint:
HEADACHE
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ male known to the Neurology and Neurosurgery 
services
presents back
to the ___ ED as transfer from OSH with complaints of
headaches. Of note, the patient had hydrocephalus in infancy 
that
was treated with the surgical insertion of ___ port, which
was revised at 3 months and ___ years old. He was recently 
admitted
to the Neurosurgery service from ___ with 
ventriculomegaly,
which was found to be stable and not the likely cause of his
acute headaches. 

He reported that she has been having headache for the past 3
weeks. ___ in severity,intermittent, bioccipital, traveling
over the back of the neck, throbing in quality, worsening in the
standing position and improving when lying down, lasting from
hours to the whole day, with associated photophobia and
phonophobia (intermittent) and tingling '' all over the body''.
NO nausea or vomiting. Patient wakes up from the sleep with
headaches, every night, for the past ___ days. Patient said that
he had headaches ___ years ago, and then started to suffer again 
3
weeks ago. He occasionally takes 500 mg of Tylenol that makes 
the
pain better. Denies any fever, neck stiffness, ear pain, cough,
vomiting, diarrhea, tick bites, head trauma, MVA, travel outside
the ___. Patient was started on Prednisolone 60 mg/day by an
outpatient neurologist on ___, but did not help. Toradol,
___ and benadryl were given in the outside hospital before he
was transferred here, and he reported relief of the pain. He
received Toradol in our ED with further improvement of his pain.
He doesn't have a headache at this point.

 
Past Medical History:
Hydrocephalus s/p ___ port initially at the age of 3 months,
revised at ___ years old and then ___ years old in ___ 
___
Hyperlipidema 
Dysthymia 
 
Social History:
___
Family History:
No fx of migraines

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
T 98.1; HR 84; 144/81; RR 16; SpO2 99% RA

Physical Exam:
PHYSICAL EXAMINATION
 Vitals: T:  P:  R: 16  BP:  SaO2:
 General: Awake, cooperative, NAD.
 HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted 
in
oropharynx
 Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
 Pulmonary: Lungs CTA bilaterally without R/R/W
 Cardiac: RRR, nl. S1S2, no M/R/G noted
 Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
 Extremities: No ___ edema.
 Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
 II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without.
Bilateral horizontal left beating nystagmus when patient is
looking either left or right. No vertical nystagmus. Normal
saccades. VFF to confrontation. Visual acuity ___ bilaterally.
Fundoscopic exam revealed papilledema. No exudates, or
hemorrhages.
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
 No adventitious movements, such as tremor, noted. No asterixis
noted.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
 L  5    ___   ___  5   5    5  5     5     5   5
 R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    2   1
 R  2  2    2    2   1
 Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
B/l dysmetria on the finger to nose maneuver but not hill to
shin.
-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. 

===
DISCHARGE PHYSICAL EXAM

Temp: 98.4 (Tm 98.5)
BP: 114/77 (114-126/70-82)
HR: 93 (73-108)
RR: 18
O2 sat: 96% (96-98), O2 delivery: Ra  

General: Comfortable and in no distress 
Head: No irritation/exudate from eyes, nose, throat 
Neck: Supple with no pain to flexion or extension 
Cardio: Regular rate and rhythm, warm, no peripheral edema 
Lungs: Unlabored breathing 
Abdomen: Soft, non tender, non distended 
Skin: No rashes or lesions 

Neurologic examination: 
Patient is awake, oriented, and provides coherent history. 
PERRL.  EOMI.  No nystagmus.  Face symmetric.  No dysarhtria. 
Shoulders sit symmetrically.  Normal tone.  No pronator drift or
orbiting.  Crude touch appreciated symmetrically.  Normal gait. 
 
Pertinent Results:
___ 06:30AM BLOOD WBC-8.7 RBC-5.12 Hgb-15.1 Hct-45.6 MCV-89 
MCH-29.5 MCHC-33.1 RDW-12.8 RDWSD-41.8 Plt ___
___ 06:30AM BLOOD ___ PTT-29.1 ___
___ 06:30AM BLOOD Glucose-88 UreaN-21* Creat-1.2 Na-145 
K-4.6 Cl-106 HCO3-22 AnGap-17
___ 06:30AM BLOOD ALT-12 AST-12
___ 06:30AM BLOOD Calcium-9.8 Phos-5.6* Mg-2.2

SHUNT SERIES AP/LAT:
 
IMPRESSION:  
  
A short right temporal approach shunt catheter with the tip 
projecting 
anteriorly toward the lateral ventricles. 
No acute findings in the chest, abdomen and pelvis. 

CT HEAD (SECOND-OPINION FROM ___ INITIAL IMAGE ACQUIRED FROM 
OSH):
 
IMPRESSION:  
  
Stable position of the VP shunt with increased mild 
hydrocephalus which raises 
the possibility of shunt malfunction. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old man with hydrocephalus since 
infancy after traumatic birth with VPS placed at three months 
and revised at ___ years who presented to ED for evaluation of 
headaches. 

Mr. ___ has had a headache since ___. He had a normal 
neurological examination, with no papilledema, and NCHCT with 
relatively stable ventriculomegaly. He was evaluated by 
neurology and neurosurgery who did not feel that his headaches 
were because of hydrocephalus or shunt malfunction. Benign 
headache management was recommended. 

Mr. ___ presented ___, again, because of headache. Mr. 
___ was evaluated by neurology, neurosurgery, and 
ophthalmology and the conclusion was again that he had a benign 
headache. Mr. ___ was offered symptomatic headache 
management, but declined. He was taking prednisone for his 
headache, but it has not been of benefit and might be 
contributing to anxiety and tachycardia. Mr. ___ expressed 
generalized weakness in addition to headache. We have 
recommended that he present to his primary physician to further 
discuss this as he or she will be more able to generate broad 
differential. 

==
Transitional issues:
[] Please evaluate for any changes in the patient's headache.
 
Medications on Admission:
NONE
 
Discharge Medications:
NONE
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Benign headache (migraine versus tension) 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

You were admitted to the neurology service for further 
assessment of your headaches.  Your case was discussed amongst 
neurology, ophthalmology, and neurosurgical physicians.  We have 
concluded that we do not believe that your headache is because 
of either increased or decreased pressure in your head.  We 
think that you have a benign headache that can be treated as an 
outpatient.  We offered you medication for headache management, 
but you did not feel strongly about starting a new medication at 
this time.  We would recommend that you no longer continue to 
take the prednisone for your headaches as it may have been 
contributing to some anxiety and racing of the heart.  

We feel strongly that you should see your primary physician to 
discuss your generalized weakness.  We do not think that your 
weakness is from a primary neurologic condition and feel that a 
primary physician would be better ___ to more fully study for 
this.  We also recommend that you follow up with your 
neurologist and report to him or her that the prednisone was not 
of benefit and potentially caused side effects.  If you are 
interested in daily headache management medications he or she 
should be able to further help you. 

Thank you for allowing us to care for you, 
___  Neurology 

 
Followup Instructions:
___